US07989444B2
10-bromo-2-methyl-7-(3-{[4-methyl-5-(2-methyl-5-quinolinyl)-4H-1,2,4-triazol-3-yl]thio}propyl)-6,7,8,9-tetrahydro-5H-[1,3]oxazolo[4,5-h][3]benzazepine hydrochloride
The title compound was prepared in analogy to General Procedure 1 from 10-bromo-2-methyl-6,7,8,9-tetrahydro-5H-[1,3]oxazolo[4,5-h][3]benzazepine (52 mg) and 5-{5-[(3-chloropropyl)thio]-4-methyl-4H-1,2,4-triazol-3-yl}-2-methylquinoline (73 mg) and was obtained as a colourless slightly hygroscopic solid (48 mg).

reactant | 10-bromo-2-methyl-6,7,8,9-tetrahydro-5H-[1,3]oxazolo[4,5-h][3]benzazepine | 52 mg | BrC1=C2C(=CC=3CCNCCC31)N=C(O2)C | C12H13BrN2O
reactant | 5-{5-[(3-chloropropyl)thio]-4-methyl-4H-1,2,4-triazol-3-yl}-2-methylquinoline | 73 mg | ClCCCSC=1N(C(=NN1)C1=C2C=CC(=NC2=CC=C1)C)C | C16H17ClN4S
product | 10-bromo-2-methyl-7-(3-{[4-methyl-5-(2-methyl-5-quinolinyl)-4H-1,2,4-triazol-3-yl]thio}propyl)-6,7,8,9-tetrahydro-5H-[1,3]oxazolo[4,5-h][3]benzazepine hydrochloride | Cl.BrC1=C2C(=CC=3CCN(CCC31)CCCSC3=NN=C(N3C)C3=C1C=CC(=NC1=CC=C3)C)N=C(O2)C | InChI=1S/C28H29BrN6OS.ClH/c1-17-8-9-21-22(6-4-7-23(21)30-17)27-32-33-28(34(27)3)37-15-5-12-35-13-10-19-16-24-26(36-18(2)31-24)25(29)20(19)11-14-35;/h4,6-9,16H,5,10-15H2,1-3H3;1H
